data/oMe_Silver.jsonl
{"reaction_id": "NR-147_1-c1ccccc1_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-C(F)(F)F_4-CC_5-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Morita-Baylis-Hillman Reaction","level": "medium","reactants_smiles": ["C(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=CC(=O)(CC)","O=C([H])CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2"],"products_smiles": ["C(=O)(CC)C(C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)O)=C(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "N1CCN2CCC1CC2","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC)(=CC(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[N+]12CCN(CC1)CC2)[O-]","rationale": "The tertiary amine nucleophile attacks the β-position of the activated alkene due to strong electron withdrawal by the adjacent carbonyl, forming a stabilized zwitterionic enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(C(C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)[N+]12CCN(CC1)CC2)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[O-])=O","rationale": "The enolate carbon, being nucleophilic and resonance-stabilized, attacks the electrophilic carbonyl carbon of the aldehyde, favored by the aldehyde’s high reactivity and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(=C(/C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)[N+]12CCN(CC1)CC2)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)O)[O-]","rationale": "Proton transfer occurs to neutralize the alkoxide and generate a hydroxyl group, driven by the stability of the resulting alcohol and facilitated by the basic amine environment."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(CC)C(C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)O)=C(c1ccccc1)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","rationale": "Elimination of the amine regenerates the catalyst and forms the conjugated alkene, favored by restoration of the carbonyl conjugation and relief of the zwitterionic intermediate’s charge separation."}],"description": "In the Morita–Baylis–Hillman reaction, the tertiary amine catalyst activates the electron-deficient alkene via nucleophilic addition, forming a zwitterionic enolate. This enolate then attacks the aldehyde, followed by proton transfer and elimination of the amine to yield the allylic alcohol product under mild conditions."}
